US05770595
To a solution of l1 -dodecen-1-ol (5.5 g, 29.9 mmol) in dichloromethane (70 ml) at 0° C. was added methanesulfonyl chloride (3.55 g, 2.40 ml, 31.0 mmol) followed by triethylamine (4.38 g, 46.0 mmol). After stirring for 10 minutes at 0° C., the reaction was allowed to warm to 25° C. and stirred for 2 hours. The reaction was poured into water (60 ml), separated and washed with dichloromethane (50 ml). The organic portions were combined, dried with magnesium sulfate, and evaporated, yielding 12-methanesulfonyl-1-dodecene as a yellow oil which was used without further purification. To a suspension of sodium theobromine (6.00 g, 30.0 mmol) in dimethylsulfoxide (60 mL) was added 12-methanesulfonyl-1-dodecene. The resulting reaction mixture was stirred for 16 hours at 60° C. The mixture was then poured into water (120 ml) and extracted with diethyl ether (2×100 ml). The organic portions were combined, dried with magnesium sulfate. The evaporated solvent left a cream-colored solid. Recrystallization from ethyl acetate/hexane (1:1) yielded 6.97 g of a white solid, 1-(l1-dodecenyl)-3,7-dimethylxanthine as a white solid (67% yield).

reactant | sodium theobromine | 30.0 mmol, 6.00 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O.[Na]
reactant | 12-methanesulfonyl-1-dodecene | CS(=O)(=O)CCCCCCCCCCC=C | C13H26O2S
reactant | water | 120 ml | O | H2O
solvent | dimethylsulfoxide | 60 mL | CS(=O)C | C2H6OS
product | 1-(l1-dodecenyl)-3,7-dimethylxanthine | 67% yield | C(CCCCCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C19H30N4O2
